US07244730B2
(Step 4) (6-Ethyl-3-pyridyl)methyl azide
After dissolving (6-ethyl-3-pyridyl)methanol (2.25 g, 16.4 mmol) in toluene (25 ml), diphenylphosphoryl azide (4.2 ml, 19.6 mmol) and 1,8-diazabicyclo[5.4.0]undec-7-ene (2.9 ml, 19.6 mmol) were added while stirring on ice, and the mixture was further stirred at room temperature for 18 hours. Water was added for treatment and extraction was performed with ethyl acetate. The extract was washed with brine and then dried over sodium sulfate and filtered. The filtrate was concentrated under reduced pressure and the residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (2.2 g) as a yellow oil. (84.5% yield)

reactant | (6-ethyl-3-pyridyl)methanol | 16.4 mmol, 2.25 g | C(C)C1=CC=C(C=N1)CO | C8H11NO
reactant | diphenylphosphoryl azide | 19.6 mmol, 4.2 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 19.6 mmol, 2.9 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | Water | O | H2O
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (6-Ethyl-3-pyridyl)methyl azide | 2.2 g, 84.5% yield | C(C)C1=CC=C(C=N1)CN=[N+]=[N-] | C8H10N4
